US04404138
3-[2-(3-Azabicyclo[3.3.1]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 13 from 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one (3.0 g, 0.011 moles), triethylamine (6.4 ml, 0.046 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.3.1]nonane hydrochloride (3.0 g, 0.013 moles). The reflux time is 96 hours. Recrystallization from ethanol gave the product (2.9 g), mp 122°-125° C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.011 moles, 3.0 g | COC1=CC2=C(C=C1OC)C1=C(CNCC1)C(O2)=O | C14H15NO4
reactant | triethylamine | 0.046 moles, 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.3.1]nonane hydrochloride | 0.013 moles, 3.0 g | Cl.ClCCN1CC2CCCC(C1)C2
product | 3-[2-(3-Azabicyclo[3.3.1]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 2.9 g | C12CN(CC(CCC1)C2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)OC)OC | C24H32N2O4
